US07253196B2
5-isopropyl-2-[(2,2,3,3-tetramethylcyclopropyl)amino]-1,3-thiazol-4(5H)-one
Synthesis was performed from N-(2,2,3,3-tetramethylcyclopropyl)thiourea and ethyl-2-bromoisovalerate according to Method C.

reactant | N-(2,2,3,3-tetramethylcyclopropyl)thiourea | CC1(C(C1(C)C)NC(=S)N)C | C8H16N2S
reactant | ethyl-2-bromoisovalerate | C(C)OC(C(C(C)C)Br)=O | C7H13BrO2
product | 5-isopropyl-2-[(2,2,3,3-tetramethylcyclopropyl)amino]-1,3-thiazol-4(5H)-one | C(C)(C)C1C(N=C(S1)NC1C(C1(C)C)(C)C)=O | C13H22N2OS
